US06002008
6-Amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile
A mixture of 4.00 g (10.8 mmol) of 4-[(3-bromophenyl)amino]-6-nitro-3-quinolinecarbonitrile and 12.2 g (54.2 mmol) of SnCl2 dihydrate in 160 mL of ethanol was refluxed under N2 for 1.3 h. After cooling to 25° C., ice water and sodium bicarbonate were added and the mixture was stirred for 2 h. Extraction with chloroform, treatment with Darco, drying (magnesium sulfate) and solvent removal gave 3.9 g of brown crystals: mass spectrum (electrospray, m/e): M+H 339.

reactant | 4-[(3-bromophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 10.8 mmol, 4.00 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C16H9BrN4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 160 mL | C(C)O | C2H6O
product | 6-Amino-4-[(3-bromophenyl)amino]-3-quinolinecarbonitrile | 3.9 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
